US07238808B2
3-Bromo-N-tert-butyl-benzenesulfonamide
Prepared by general procedure III from tert-butylamine (3.16 mL, 30 mmol) and commercially available 3-bromobenzenesulfonyl chloride (1.44 mL, 10 mmol) to give the title compound as a light yellow solid (3.11 g, 106%). MS (ISN) 290.1 [(M−H)−], 292.2 [(M+2−H)−].

reactant | tert-butylamine | 30 mmol, 3.16 mL | C(C)(C)(C)N | C4H11N
reactant | 3-bromobenzenesulfonyl chloride | 10 mmol, 1.44 mL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
product | 3-Bromo-N-tert-butyl-benzenesulfonamide | 3.11 g, 106% | BrC=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
